US05952355
Substantially the same procedure as in Reference Example 13 was repeated using 2-mercaptoethanol (0.82 g) and 2-bromo-3',4',5'-trimethoxyacetophenone (Compound XIa, 2.60 g) obtained in Reference Example 1 to give 2-(2-hydroxyethylthio)-3',4',5'-trimethoxyacetophenone (Compound IX-12, 1.98 g).

reactant | 2-mercaptoethanol | 0.82 g | SCCO | C2H6OS
reactant | 2-bromo-3',4',5'-trimethoxyacetophenone | 2.60 g | BrCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H13BrO4
product | 2-(2-hydroxyethylthio)-3',4',5'-trimethoxyacetophenone | 1.98 g | OCCSCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C13H18O5S
